US04829074
A solution of 1,1-bis(4-trifluoromethoxyphenyl)-2-(1,2,3,4-2H-tetrazol-2-yl)propan-1-ol (3.5 g) prepared as described in Example 3 in dichloromethane (50 cm3) was added dropwise to a stirred solution of diethylaminosulphurtrifluoride (1.51 g) kept at a temperature of -70° C. under a nitrogen atmosphere. After 1 hour a further quantity of diethylaminosulphurtrifluoride (1.5 g) was added and the mixture stirred for 18 hours at the ambient temperture, during which time any vapours emitted were vented through a column of potassium hydroxide pellets. Water (30 cm3) was added carefully to the mixture, the organic layer separated and washed with more water (3×30 cm3), dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvent under reduced pressure. The residual oil (4.5 g) was purified by hplc using a silica gel column eluted with a mixture of hexane (5 parts by volume and ethylacetate (1 part by volume) to yield 1,1-bis(4-trifluoromethoxyphenyl)-1-fluoro- 2-(1,2,3,4-2H-tetrazol-2-yl)propane as an oil (3.19 g) which crystallised on standing (mp. 68°-70° C.).

reactant | 1,1-bis(4-trifluoromethoxyphenyl)-2-(1,2,3,4-2H-tetrazol-2-yl)propan-1-ol | 3.5 g | FC(OC1=CC=C(C=C1)C(C(C)N1N=CN=N1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C18H14F6N4O3
reactant | diethylaminosulphurtrifluoride | 1.51 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | diethylaminosulphurtrifluoride | 1.5 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | potassium hydroxide | [OH-].[K+]
reactant | Water | 30 cm3 | O | H2O
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 1,1-bis(4-trifluoromethoxyphenyl)-1-fluoro- 2-(1,2,3,4-2H-tetrazol-2-yl)propane | 3.19 g | FC(OC1=CC=C(C=C1)C(C(C)N1N=CN=N1)(F)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C18H13F7N4O2
